US06306887B1
N-Hydroxy-3-[2-(3-methyl-1-{2-[4-(3-o-tolyl-ureido)-phenyl]-acetylamino}-butyl)-thiazol-5-yl]-propionamide
Hydroxylamine hydrochloride (6.96 g) was suspended in methanol ( 35 mL) and heated to 90° C. This solution was added to potassium hydroxide (8.34 g) dissolved in methanol (21 mL) After 15 minutes of stirring, the solution was filtered and 3-[2-(3-methyl-1-{2-[4-(3-o-tolyl-ureido)-phenyl]-acetylamino}-butyl)-thiazol-5-yl]propionic acid methyl ester (0.80 g, 1.53 mmol) was added. The reaction was stirred at room temperature for 15 minutes, 1N HCl (50 mL) was added, and the methanol was removed in vacuo. The residue was partitioned between ethyl acetate and hydrochloric acid (1N). The organic portion was dried over sodium sulfate and the solvent removed in vacuo. The title compound (0.175 g, 17%) was isolated by crystallization from a mixture of ethyl acetate and methanol. MS [M+1] 524.1.

reactant | Hydroxylamine hydrochloride | 6.96 g | Cl.NO
reactant | potassium hydroxide | 8.34 g | [OH-].[K+]
reactant | 3-[2-(3-methyl-1-{2-[4-(3-o-tolyl-ureido)-phenyl]-acetylamino}-butyl)-thiazol-5-yl]propionic acid methyl ester | 1.53 mmol, 0.80 g | COC(CCC1=CN=C(S1)C(CC(C)C)NC(CC1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)=O)=O | C28H34N4O4S
reactant | HCl | 1N, 50 mL | Cl | ClH
solvent | methanol | 35 mL | CO | CH4O
solvent | methanol | 21 mL | CO | CH4O
product | N-Hydroxy-3-[2-(3-methyl-1-{2-[4-(3-o-tolyl-ureido)-phenyl]-acetylamino}-butyl)-thiazol-5-yl]-propionamide | 0.175 g, 17% | ONC(CCC1=CN=C(S1)C(CC(C)C)NC(CC1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)=O)=O | C27H33N5O4S
